US07495001B2
B] [rac]-[4-(Methyl-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-propyl}-amino)-naphthalen-1-yloxy]-acetic acid
0.042 g (0.078 mmol) of the above prepared [rac]-[4-(methyl-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-propyl}-amino)-naphthalen-1-yloxy]-acetic acid ethyl ester was dissolved in 0.84 ml of THF/EtOH=1/1, treated at 0° C. with 0.24 ml (3 eq.) of 1N NaOH, and kept at ambient temperature for 2 h. The reaction mixture was then neutralized with HCl dil. to pH 7, extracted with AcOEt, the organic layer was washed with water, dried over sodium sulfate, and evaporated to dryness to leave, after crystallization from AcOEt/hekane, 0.033 g of the title compound as yellowish crystals of mp. 76-78° C.

reactant | [rac]-[4-(methyl-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-propyl}-amino)-naphthalen-1-yloxy]-acetic acid ethyl ester | C(C)OC(COC1=CC=C(C2=CC=CC=C12)N(C(CC)C=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C)C)=O | C31H31F3N2O3
reactant | NaOH | 1N, 0.24 ml, 3 eq. | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF EtOH | 0.84 ml | C1CCOC1.CCO
product | [rac]-[4-(Methyl-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-propyl}-amino)-naphthalen-1-yloxy]-acetic acid | CN(C1=CC=C(C2=CC=CC=C12)OCC(=O)O)C(CC)C=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C | C29H27F3N2O3
